US07772250B2
5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one 4-methoxy cinnamate (Unquantified Hydrate)
5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one (0.101 g) was slurried in aqueous tetrahydrofuran (1:1 THF:H2O vol/vol, 1.2 mL). 4-Methoxycinnamic acid (0.036 g, predominantly trans) was added to the mixture. A solution formed before crystallisation spontaneously occurred. The resultant slurry was stirred overnight at room temperature and then filtered. The filtered solid was washed with aqueous tetrahydrofuran (1:1 THF:H2O vol/vol, 3×0.2 mL) and dried at 45° C. in vacuo overnight to give the title compound.

reactant | 5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one | 0.101 g | NC(COC1=CC=C(C=C1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O)(C)C | C29H34N4O4
reactant | 4-Methoxycinnamic acid | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
product | 5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one 4-methoxy cinnamate | COC1=CC=C(C=CC(=O)O)C=C1.NC(COC1=CC=C(C=C1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O)(C)C | InChI=1S/C29H34N4O4.C10H10O3/c1-29(2,30)18-37-22-9-7-21(8-10-22)32-20-5-3-19(4-6-20)15-16-31-17-26(35)23-11-13-25(34)28-24(23)12-14-27(36)33-28;1-13-9-5-2-8(3-6-9)4-7-10(11)12/h3-14,26,31-32,34-35H,15-18,30H2,1-2H3,(H,33,36);2-7H,1H3,(H,11,12)/t26-;/m0./s1
